US08309542B2
(b) Methyl 2-methyl-2,3-dihydro-1H-isoindole-5-carboxylate
1.2 g (6.6 mmol) methyl 2,3-dihydro-1H-isoindole-5-carboxylate are dissolved in 5 ml formic acid, combined with 2 ml formalin solution (37% solution in water), heated to 70° C. for 3.5 hours and stirred for 16 hours at RT. The reaction mixture is evaporated down i. vac. and combined with 0.1 N sodium hydroxide solution and extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac.

reactant | methyl 2,3-dihydro-1H-isoindole-5-carboxylate | 6.6 mmol, 1.2 g | C1NCC2=CC(=CC=C12)C(=O)OC | C10H11NO2
reactant | formalin | 2 ml | C=O | CH2O
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | Methyl 2-methyl-2,3-dihydro-1H-isoindole-5-carboxylate | CN1CC2=CC=C(C=C2C1)C(=O)OC | C11H13NO2
